USRE042930E1
J. Preparation of (S)-2-(4-((2-amino-4-oxo-3,4-dihydropteridin-6-yl)methylamino)benzamido)-5-((S)-3-carboxy-1-((S)-1-((S)-3-carboxy-1-((R)-1-carboxy-2-(2-(2-((2-((1S,3S,7S,10R,11S,12S,16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-5,9-dioxo-4-oxa-17-aza-bicyclo[14.1.0]heptadecan-17-yl)ethoxy)carbonyloxy)ethyl)disulfanyl)ethylamino)-1-oxopropan-2-ylamino)-5-guanidino-1-oxopentan-2-ylamino)-1-oxopropan-2-ylamino)-5-oxopentanoic acid
To 15 mL of H2O (bubbled with argon for 10 min before use) was added to (S)-2-(4-((2-amino-4-oxo-3,4-dihydropteridin-6-yl)methylamino)benzamido)-5-((S)-3-carboxy-1-((S)-1-((S)-3-carboxy-1-((S)-1-carboxy-2-mercaptoethylamino)-1-oxopropan-2-ylamino)-5-guanidino-1-oxopentan-2-ylamino)-1-oxopropan-2-ylamino)-5-oxopentanoic acid (498 mg, 0.534 mmol) in a 50 mL size centrifuge tube. To this suspension, while bubbling with argon, was added dropwise saturated NaHCO3 solution (bubbled with argon for 10 min before use) until the pH of the resulting solution reached 6.9. 2-((1S,3S,7S,10R,11S,12S,16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-5,9-dioxo-4-oxa-17-aza-bicyclo[14.1.0]heptadecan-17-yl)ethyl 2-(2-(pyridin-2-yl)disulfanyl)ethyl carbonate (400 mg, 0.534 mmol) in THF was added quickly and the resulting homogenous solution was stirred under argon for 30 min. The reaction progress was checked by analytical HPLC at 15 min. The product peak came out at ˜6.4 min under analytical HPLC conditions. The mixture was diluted with ˜15 mL of phosphate buffer and the THF was removed under vacuum. The cloudy solution was centrifuged and filtered. The yellow filtrate was divided into two portions and purified by preparative HPLC. Pure fractions (>98% pure) were pooled and freeze-dried. Tail fractions (<98% pure) were collected and re-purified for every 3-6 chromatography runs to provide 700 mg of the title compound as a white powder (contains 11.8% by weight of water and 8.7% by weight sodium and sodium phosphate salts, as determined by Karl Fischer and elemental analyses).

reactant | H2O | 15 mL | O | H2O
reactant | (S)-2-(4-((2-amino-4-oxo-3,4-dihydropteridin-6-yl)methylamino)benzamido)-5-((S)-3-carboxy-1-((S)-1-((S)-3-carboxy-1-((S)-1-carboxy-2-mercaptoethylamino)-1-oxopropan-2-ylamino)-5-guanidino-1-oxopentan-2-ylamino)-1-oxopropan-2-ylamino)-5-oxopentanoic acid | 0.534 mmol, 498 mg | NC1=NC2=NC=C(N=C2C(N1)=O)CNC1=CC=C(C(=O)N[C@H](C(=O)O)CCC(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](CS)C(=O)O)CC(=O)O)CCCNC(=N)N)CC(=O)O)C=C1 | C36H46N14O14S
reactant | 2-((1S,3S,7S,10R,11S,12S,16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-5,9-dioxo-4-oxa-17-aza-bicyclo[14.1.0]heptadecan-17-yl)ethyl 2-(2-(pyridin-2-yl)disulfanyl)ethyl carbonate | 0.534 mmol, 400 mg | C(OCCN1[C@@H]2CCC[C@@H]([C@@H]([C@H](C(C([C@H](CC(O[C@@H](C[C@H]12)/C(=C/C=1N=C(SC1)C)/C)=O)O)(C)C)=O)C)O)C)(OCCSSC1=NC=CC=C1)=O | C36H51N3O8S3
solvent | THF | C1CCOC1 | C4H8O
solvent | phosphate | ˜15 mL | P(=O)([O-])([O-])[O-]
product | (S)-2-(4-((2-amino-4-oxo-3,4-dihydropteridin-6-yl)methylamino)benzamido)-5-((S)-3-carboxy-1-((S)-1-((S)-3-carboxy-1-((R)-1-carboxy-2-(2-(2-((2-((1S,3S,7S,10R,11S,12S,16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-5,9-dioxo-4-oxa-17-aza-bicyclo[14.1.0]heptadecan-17-yl)ethoxy)carbonyloxy)ethyl)disulfanyl)ethylamino)-1-oxopropan-2-ylamino)-5-guanidino-1-oxopentan-2-ylamino)-1-oxopropan-2-ylamino)-5-oxopentanoic acid | 700 mg | NC1=NC2=NC=C(N=C2C(N1)=O)CNC1=CC=C(C(=O)N[C@H](C(=O)O)CCC(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSCCOC(=O)OCCN2[C@@H]3CCC[C@@H]([C@@H]([C@H](C(C([C@H](CC(O[C@@H](C[C@H]23)/C(=C/C=2N=C(SC2)C)/C)=O)O)(C)C)=O)C)O)C)C(=O)O)CC(=O)O)CCCNC(=N)N)CC(=O)O)C=C1 | C67H92N16O22S3
